US08217069B2
To a suspension of 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol (0.46 g) and cesium carbonate (0.48 g) in N,N-dimethylformamide (5 mL) was added 1-bromo-2-(tert-butyl-dimethylsilyloxy)ethane (0.25 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane n-hexane/ethyl acetate=1/1) to give 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-1-[2-(tert-butyldimethylsilyloxy)ethoxy]-benzene (66 mg). This material was dissolved in tetrahydrofuran (3 mL). To the solution was added hydrazine monohydrate (0.026 mL), and the mixture was heated at reflux for 2 hours. The reaction mixture was cooled to room temperature, and diluted with ethyl acetate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=1/1) to give the title compound (52 mg).

reactant | 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)phenol | 0.46 g | FC=1C(=CC(=C(C1)O)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C24H19FN2O5S
reactant | cesium carbonate | 0.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-(tert-butyl-dimethylsilyloxy)ethane | 0.25 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-fluoro-2-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-yl-sulfonyl)-4-(1,3-dioxo-1,3-dihydroisoindol-2-yl)-1-[2-(tert-butyldimethylsilyloxy)ethoxy]-benzene | 66 mg | FC=1C(=CC(=C(C1)OCCO[Si](C)(C)C(C)(C)C)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(C1=CC=CC=C1C2=O)=O | C32H37FN2O6SSi
